US05622937
Part A: 3-Bromobenzoic acid (1.1 g, 5.47 mmol) was dissolved in methanol (20 ml) in a 50 ml flask. Concentrated sulfuric acid (2 drops) was added and the mixture was refluxed under nitrogen for ten hours then concentrated under reduced pressure. The residue was mixed with dichloromethane (20 ml) and saturated sodium bicarbonate solution (10 ml). The organic material was separated, dried (MgSO4) and concentrated under reduced pressure. The residue was flushed through silica gel with hexane/ethyl acetate (3:1), and concentrated which provided methyl 3-bromobenzoate (1.0 g, 85%).

reactant | 3-Bromobenzoic acid | 5.47 mmol, 1.1 g | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | methanol | 20 ml | CO | CH4O
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
product | methyl 3-bromobenzoate | 1.0 g, 85% | BrC=1C=C(C(=O)OC)C=CC1 | C8H7BrO2
